US08217032B2
(2-Bromo-5-fluoro-phenyl)-methyl-carbamic acid tert-butyl ester
Place (2-bromo-5-fluoro-phenyl)-carbamic acid tert-butyl ester (2.00 g, 6.90 mmol) and dimethylformamide (40 mL) in a round bottom flask. Cool the solution to 0° C., add sodium hydride (60% dispersion in mineral oil) (0.303 g, 7.59 mmol), remove the ice bath and stir this suspension for 25 minutes allowing it to warm slowly towards ambient temperature. Cool the resulting mixture to 0° C. once again, and add iodomethane (0.56 mL, 8.96 mmol). Stir the resulting mixture overnight, allowing it to warm to ambient temperature. Quench the reaction with brine and extract the resulting mixture into ethyl acetate. Combine the extracts and wash with brine; then dry (sodium sulfate) and concentrate in vacuo. Purify the resulting material by flash chromatography (silica gel; 35%-50% dichloromethane gradient in hexanes) to provide the desired product.

reactant | (2-bromo-5-fluoro-phenyl)-carbamic acid tert-butyl ester | 6.90 mmol, 2.00 g | C(C)(C)(C)OC(NC1=C(C=CC(=C1)F)Br)=O | C11H13BrFNO2
reactant | sodium hydride | 7.59 mmol, 0.303 g | [H-].[Na+]
reactant | iodomethane | 8.96 mmol, 0.56 mL | IC | CH3I
solvent | dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
product | (2-Bromo-5-fluoro-phenyl)-methyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C)C1=C(C=CC(=C1)F)Br)=O | C12H15BrFNO2
